### PR TITLE
Prove lemmas about projections out of equal bounds, relying on #303

### PR DESCRIPTION
**Pull request by Blaisorblade**
New version of #255, but fully working.

### CODE REVIEW

File: theories/Dot/semtyp_lemmas/tproj_lr.v [hunk 1]
```diff
@@ -303,4 +304,71 @@ Section type_proj.
...
+      rewrite -(path_wp_pv_eq auxV.[ρ]). by iApply "HwT".
+    }
+
+    iExists auxV.[ρ]; iFrame "Hw".
+    iApply (vl_sel_lb with "HT Hw").
+  Qed.
+
+  Lemma sProj_Stp_TMem {Γ i A σ} {T : olty Σ 0} :
+    coveringσ σ T →
+    ⊢ Γ s⊨ oLater T <:[i] oProj A (oTMem A (oLater T) (oLater T)).
```
Comment (Blaisorblade) [inline theories/Dot/semtyp_lemmas/tproj_lr.v:363]: TODO: We should make the notation in comments consistent with the gDOT paper; in that notation, this is written as `{ A >: T <: T } # A = Later T`.

Comment (Blaisorblade) [reply theories/Dot/semtyp_lemmas/tproj_lr.v:363]: Turned into https://github.com/Blaisorblade/dot-iris/issues/310
